US04605656
10 g of 4'-chloro-2-(2-pyrazinyl)-acetophenone, 10 g of hydroxylamine hydrochloride and 12 g of anhydrous sodium carbonate are stirred at 60° in 100 ml of ethanol for 2 hours. The mixture is then treated with water and extracted with ethyl acetate, and the organic phase is dried over sodium sulfate and subsequently concentrated. The residue is crystallized from acetone/n-hexane to yield 4'-chloro-2-(2-pyrazinyl)-acetophenone oxime, m.p. 134°.

reactant | 4'-chloro-2-(2-pyrazinyl)-acetophenone | 10 g | ClC1=CC=C(C=C1)C(CC1=NC=CN=C1)=O | C12H9ClN2O
reactant | hydroxylamine hydrochloride | 10 g | Cl.NO
reactant | sodium carbonate | 12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4'-chloro-2-(2-pyrazinyl)-acetophenone oxime | ClC1=CC=C(C=C1)C(CC1=NC=CN=C1)=NO | C12H10ClN3O
